US08648089B2
4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol
The target compound was prepared as in Example 15 using 3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indole (58 mg, 0.138 mmol) and boron tribromide (BBr3, 65 μL, 0.691 mmol).

reactant | 3-(4-methoxyphenyl)-6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indole | 0.138 mmol, 58 mg | COC1=CC=C(C=C1)C1=CN(C2=CC(=CC=C12)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=NC=C1 | C26H19N3O3
reactant | boron tribromide | 0.691 mmol, 65 μL | B(Br)(Br)Br | BBr3
product | 4-(6-(3-nitrophenyl)-1-(pyridin-4-yl)-1H-indol-3-yl)phenol | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC=C2C(=CN(C2=C1)C1=CC=NC=C1)C1=CC=C(C=C1)O | C25H17N3O3
